*TB_OTA_AC
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/OTA_lpe.spi
#else
.include ../../../work/xsch/OTA.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  dc 1.8
VPWRUP PWRUP_1V8 VSS dc 1.8


* Differential AC stimulus: Apply AC only to non-inverting input
* Vinp is the non-inverting input based on circuit topology
VCM  Vcm  VSS  dc 0.9
VINP Vinp Vcm  dc 0 ac 1
VINN Vinn Vcm  dc 0 ac 0

* Bias current source
IBN  VDD_1V8 XDUT.IBN dc 10u

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
XDUT VDD_1V8 PWRUP_1V8 Vout Vinn Vinp VSS OTA

*-----------------------------------------------------------------
* LOAD
*-----------------------------------------------------------------
CL Vout VSS 0.1p

*-----------------------------------------------------------------
* INITIAL CONDITIONS - help convergence
*-----------------------------------------------------------------
.nodeset v(Vout)=1.4

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

* Find operating point first
op

* Print bias voltages for debugging
echo "=== Operating Point Voltages ==="
print v(vout) v(xdut.vb1) v(xdut.vb2) v(xdut.net4) v(xdut.net1)
print all
echo "=== End Operating Point ==="

* AC analysis from 1Hz to 1GHz
ac dec 100 1 1e9

* Measure DC gain (at low frequency) - now from non-inverting input
meas ac Adc find vdb(Vout) at=10
meas ac Phase_dc find vp(Vout) at=10

* Measure unity gain frequency (0dB crossing) - use FALL=1 to handle low gain gracefully
meas ac UGF when vdb(Vout)=0 FALL=1

* Measure phase at unity gain frequency (phase margin = 180 + phase)
meas ac Phase_UGF find vp(Vout) when vdb(Vout)=0 FALL=1

write
quit

.endc

.end
